2146-08-25 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - pt with word finding difficulties for the past few days, sent for CT
   head-->showed hypodensity in left basal ganglia, ? hypodensity in left
   cerebellum could be movement artifact-->subacute stroke
   - ID recs: dapto, cefepime, and fluconazole, when recultured also send
   another culture for malassezia (separate order in POE)
   - Only has two lumens in line, one for TPN, the other with
   pressors/fluids/abx, FYI: cefepime is not compatible with levophed
   - [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 1112**] involved, would like to be kept updated about her line
   status, continuing ethanol post TPN
   - if line needs to be pulled will need a transhepatic line
   - used TPN port for additional access
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   blisters/paper
   Iodine; Iodine Containing
   Hives; Nausea/V
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Fluconazole - [**2146-8-24**] 06:16 PM
   Cefipime - [**2146-8-25**] 01:25 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2146-8-24**] 08:15 PM
   Morphine Sulfate - [**2146-8-25**] 05:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-8-25**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 76 (72 - 105) bpm
   BP: 101/53(64) {56/36(39) - 117/72(79)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,883 mL
                                                                  3,190 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  5,295 mL
                                                                  2,821 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  2,200 mL
   Urine:
                                                                  1,050 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,283 mL
                                                                    990 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin, hunched over, tired-appearing, engages
   interviewer quietly but appropriately
   Eyes / Conjunctiva: PERRL, EOMI
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : slight, at bases), good
   air movement
   Abdominal: Soft, Tender: LLQ tender; no tap tenderness, no rebound
   tenderness, PEG tube in place; uneven surgical scar at midline, old;
   ostomy bag in place, full of liquid material
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, time, situation, Movement: Purposeful,
   Tone: Normal, strength in extremities [**2-27**] left biceps pull, [**3-29**] right
   biceps pull. [**3-29**] hand grip bilat.
   Labs / Radiology
   178 K/uL
   6.2 g/dL
   116 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   10 mg/dL
   114 mEq/L
   135 mEq/L
   19.0 %
   2.5 K/uL
        [image002.jpg]
                             [**2146-8-25**]  02:00 AM
                             [**2146-8-25**]  02:08 AM
   WBC
   2.5
   Hct
   19.0
   Plt
   178
   Cr
   0.5
   Glucose
   121
   116
   Other labs: Lactic Acid:0.6 mmol/L, Ca++:6.7 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   This is a 47 year old woman with an unfortunate history of
   TPN-dependence leading to many complications of intravenous lines
   including infection, clots, etc.
   .
   HYPOTENSION
   Associated with fever earlier. [**Month (only) 60**] be related to infection; covering
   with cefepime, adding fluconazole given recent hx of Mallasezia
   bacteremia. Watery ostomy output, vomiting earlier, may be volume down.
   - continuing cefepime
   - started fluconazole per discussion w ID
   - giving IVF as tolerated; difficult to give IVF and pressors
   simultaneously so have to choose between these; no other access
   available
   - levophed if not able to resuscitate with IVF
   - cultures pending
   .
   FEMORAL ACCESS
   ?of whether to revise this line. Have held plavix in the meantime.
   Concern for being off plavix would be for clotting the line; and/or
   extending existing clots.
   - consider lovenox while considering revising the line
   - restart plavix if deciding to treat through and keep the current line
   .
   PAST PULMONARY EMBOLISM
   Pt not on Coumadin due to antibiotic interactions, difficulties with
   absorption. Her Lovenox was stopped in the past, per OMR "because the
   injections gave her welts, which bled." She is currently on Plavix for
   stents in place; this was held on admission because of concern about
   revising the line.
   - trying short-term lovenox
   - monitor for side effects
   - restart plavix if not intending to revise the line
   .
   ANEMIA
   Lower than usual; some IVF; concern for GI bleed.
   - guaiac ostomy output
   - transfuse
   .
   FEN: No IVF, TPN, replete electrolytes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-8-24**] 05:10 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU

2146-08-25 10:08:00 Physician Attending Progress Note
Chief Complaint: Hypotension, anemia, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continues on levophed overnight. Urine output good. Received
   about 5L of IV fluid.
   Had increased word finding difficulties. Head CT showed possible
   evidence of CVA in the cerebellum and basal ganglia.
   Hct down to 19 this AM.
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2146-8-24**] 05:10 PM
   double lumen
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   blisters/paper
   Iodine; Iodine Containing
   Hives; Nausea/V
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Fluconazole - [**2146-8-24**] 06:16 PM
   Cefipime - [**2146-8-25**] 01:25 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2146-8-24**] 08:15 PM
   Morphine Sulfate - [**2146-8-25**] 05:07 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-8-25**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 71 (71 - 105) bpm
   BP: 98/57(68) {56/36(39) - 117/72(79)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,883 mL
                                                                  3,335 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  5,295 mL
                                                                  2,967 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  2,200 mL
   Urine:
                                                                  1,050 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,283 mL
                                                                  1,135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Dry oral mucosa
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Rare, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   6.2 g/dL
   178 K/uL
   116 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   10 mg/dL
   114 mEq/L
   135 mEq/L
   19.0 %
   2.5 K/uL
        [image002.jpg]
                             [**2146-8-25**]  02:00 AM
                             [**2146-8-25**]  02:08 AM
   WBC
   2.5
   Hct
   19.0
   Plt
   178
   Cr
   0.5
   Glucose
   121
   116
   Other labs: Lactic Acid:0.6 mmol/L, Ca++:6.7 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ACIDOSIS
   ================
   Hypotension persists. Still not convinced that she is fully volume
   resuscitated (oral mucosa dry, complaining of thirst). No evidnce of
   CHF by exam. O2 saturations are good. Patient developing hyperchloremic
   acidosis. [**Month (only) 60**] be losing bicarb in high stoma output and she has been
   receiving NS fluids. Check stool lytes. Change fluids to lactated
   Ringers. Will begin vasopressin in effort to get patient off levophed.
   Continue antibiotics. Electrolytes being repleted.
   CT scan has raised concern about embolic events. She has hx of
   significant venous clots; raises question of a PFO with paradoxical
   emboli to the arterial system. Other concern would be endocarditis.
   Will obtain echo with bubble study to assess for PFO and vegetations.
   Hct down to 19 with volume resuscitation. Stoma output trace guaiac
   output. Patient to be transfused today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-8-24**] 05:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: Not applicable
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2146-08-26 10:38:00 Physician Attending Progress Note
Chief Complaint: Hypotenstion, CVA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient feeling somewhat better. Word finding improved. No pain or
   dyspnea now. Off levophed; vasopressin continues. Urine output good.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2146-8-25**] 08:22 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   blisters/paper
   Iodine; Iodine Containing
   Hives; Nausea/V
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Daptomycin - [**2146-8-25**] 10:00 AM
   Fluconazole - [**2146-8-25**] 01:20 PM
   Cefipime - [**2146-8-25**] 02:32 PM
   Meropenem - [**2146-8-25**] 08:30 PM
   Ambisome - [**2146-8-25**] 10:27 PM
   Infusions:
   Vasopressin - 1.2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-8-25**] 10:30 PM
   Morphine Sulfate - [**2146-8-26**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-8-26**] 10:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.5
C (97.7
   HR: 72 (58 - 87) bpm
   BP: 92/59(66) {87/51(61) - 117/63(75)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,688 mL
                                                                    286 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  3,969 mL
                                                                    286 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,060 mL
                                                                  1,450 mL
   Urine:
                                                                  3,160 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -372 mL
                                                                 -1,164 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : Dullness
   right base), (Breath Sounds: No(t) Clear : , Crackles : Few rales at
   left base, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   198 K/uL
   105 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.3 mEq/L
   9 mg/dL
   103 mEq/L
   134 mEq/L
   24.2 %
   4.1 K/uL
        [image002.jpg]
                             [**2146-8-25**]  02:00 AM
                             [**2146-8-25**]  02:08 AM
                             [**2146-8-26**]  04:02 AM
   WBC
   2.5
   4.1
   Hct
   19.0
   24.2
   Plt
   178
   198
   Cr
   0.5
   0.6
   Glucose
   121
   116
   105
   Other labs: Lactic Acid:0.6 mmol/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.6 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ===============
   Blood pressure improved. Off levophed. Continue vasopressin today.
   Cultures remain negative.
   Continues on antibiotics. Will have new femoral line placed today.
   No new neurological findings. Patient to get echocardiogram to assess
   for valve vegetations.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2146-8-24**] 05:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments: VAP protocol not indicated
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR/DNI
   Disposition :ICU
   Total time spent: 30 minutes

2146-08-28 08:40:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 CALLED OUT
   -Improved stability of blood pressure-off pressors for >24 hours
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   blisters/paper
   Iodine; Iodine Containing
   Hives; Nausea/V
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Fluconazole - [**2146-8-25**] 01:20 PM
   Cefipime - [**2146-8-25**] 02:32 PM
   Daptomycin - [**2146-8-27**] 10:14 AM
   Ambisome - [**2146-8-27**] 10:30 PM
   Meropenem - [**2146-8-28**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2146-8-27**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: [**3-30**] ModeratePain location: left groin
   Flowsheet Data as of  [**2146-8-28**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 86 (82 - 99) bpm
   BP: 100/53(64) {90/44(55) - 110/61(69)} mmHg
   RR: 17 (13 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.5 kg (admission): 52.9 kg
             Total In:
                                                                  3,560 mL
                                                                  1,045 mL
   PO:
             TF:
   IVF:
                                                                  1,997 mL
                                                                    285 mL
   Blood products:
   Total out:
                                                                  5,000 mL
                                                                  2,050 mL
   Urine:
                                                                  3,550 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,440 mL
                                                                 -1,005 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Ostomy--stable high
   output
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   271 K/uL
   146 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   12 mg/dL
   108 mEq/L
   143 mEq/L
   26.8 %
   3.0 K/uL
        [image002.jpg]
                             [**2146-8-25**]  02:00 AM
                             [**2146-8-25**]  02:08 AM
                             [**2146-8-26**]  04:02 AM
                             [**2146-8-26**]  06:51 PM
                             [**2146-8-27**]  04:22 AM
                             [**2146-8-28**]  04:33 AM
   WBC
   2.5
   4.1
   3.4
   3.0
   Hct
   19.0
   24.2
   23.2
   26.8
   Plt
   178
   198
   212
   271
   Cr
   0.5
   0.6
   0.5
   0.5
   0.6
   Glucose
   121
   116
   105
   78
   175
   146
   Other labs: Lactic Acid:0.6 mmol/L, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:4.4 mg/dL
   Assessment and Plan
    yo female with history of short gut syndrome and chronic TPN admitted
   with sepsis and concern for line related sepsis now with resolution
   with empiric treatment in the setting of negative cutures to date.
   1)Sepsis-patient with improvement with intervention and failure to
   clearly identify new source
   -TEE tomorrow
   -Continue with antibiotics including-Dapto, Ambisome, Meropenem
   2) ANEMIA, OTHER-
   -Continue with [**Hospital1 **]
   3)Pain Control
currently with persistent chronic abdominal pain and new
   groin pain
   -Fentanyl patch
   -Tylenol
   -MSO4 PRN
   4)CVA-
   -Neuro consult following
concerning any further intervention
   -Will need TEE
   -Will have to consider any further imaging carefully and MRI defered at
   this time
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2146-8-27**] 08:00 PM 89.5 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-8-24**] 05:10 PM
   Multi Lumen - [**2146-8-26**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition : To Floor today
   Total time spent: 40